US06884868B1
A solution of 4-bromo-2,6-dimethylphenol (2.00 g) and 1,7-dibromoheptane (5.10 g) in N,N-dimethylformamide (20 ml) was treated with potassium carbonate (2.06 g), and the mixture was stirred for 5 hours at ambient temperature. To the reaction mixture was added water and methylene chloride, and the organic layer was separated and dried over magnesium sulfate. Magnesium sulfate was filtered off, and the filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography eluting successively with the following solvents: (1) n-hexane, (2) n-hexane:ethyl acetate=4:1, (3) n-hexane:ethyl acetate=1:1. The fractions containing the object compound were concentrated in vacuo to give crude 5-bromo-2-(7-bromoheptyloxy)-1,3-dimethylbenzene, that was used in the next reaction directly, as a pale yellow oil.

reactant | 4-bromo-2,6-dimethylphenol | 2.00 g | BrC1=CC(=C(C(=C1)C)O)C | C8H9BrO
reactant | 1,7-dibromoheptane | 5.10 g | BrCCCCCCCBr | C7H14Br2
reactant | potassium carbonate | 2.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-bromo-2-(7-bromoheptyloxy)-1,3-dimethylbenzene | BrC=1C=C(C(=C(C1)C)OCCCCCCCBr)C | C15H22Br2O
